US07977340B2
Step 1. 3-Bromo-5-pyrazol-1-yl-phenylamine
To a solution of 3,5-dibromoaniline (0.50 g, 1.99 mmol) in DMSO (2.0 mL) was added sequentially L-Proline (0.041 g, 0.36 mmol), Cs2CO3 (1.16 g, 3.58 mmol), CuI (0.038 g, 0.20 mmol) and pyrazole (0.12 g, 1.80 mmol). The reaction mixture was degassed for 10 min and then heated to 110° C. for 48 h. After the completion of reaction (TLC monitoring), the reaction mixture was cooled to room temperature, added water and extracted with ethyl acetate (×3). The combined organics was washed with water, dried (Na2SO4), filtered and concentrated. The residue was purified over silica gel (230-400 M, 15% EtOAc-Hexane) to get the desired compound (0.18 g, 37%).

reactant | 3,5-dibromoaniline | 1.99 mmol, 0.50 g | BrC=1C=C(N)C=C(C1)Br | C6H5Br2N
reactant | L-Proline | 0.36 mmol, 0.041 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Cs2CO3 | 3.58 mmol, 1.16 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | pyrazole | 1.80 mmol, 0.12 g | N1N=CC=C1 | C3H4N2
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.20 mmol, 0.038 g | [Cu]I
solvent | water | O | H2O
product | 3-Bromo-5-pyrazol-1-yl-phenylamine | 0.18 g, 37% | BrC=1C=C(C=C(C1)N1N=CC=C1)N | C9H8BrN3
